US05116858
4-(4'-n-Butylphenyl)-1-cyclohexyl-5-methyl-4-imidazolin-2-one (Compound No. 205)
4'-n-Butyl-2-cyclohexylaminopropiophenone hydrochloride (1768 mg, 5.5 mmol) was suspended in water (30 ml), and potassium cyanate (914 mg, 11.3 mmol) in water (10 ml) was added thereto. The aqueous mixture was heated under reflux for one hour under nitrogen atomosphere, added with conc. hydrochloride (2 ml), and heated under reflux an additional one hour. The reaction mixture was extracted with dichloromethane, and the extract was washed with 10% hydrochloride, and dried over anhydrous magnesium sulfate. Evaporation of the solvent under vacuum and recrystalization from ethyl acetate gave the title compound. Yield: 155 mg (9%), m.p. 236° C.

reactant | 4'-n-Butyl-2-cyclohexylaminopropiophenone hydrochloride | 5.5 mmol, 1768 mg | Cl.C(CCC)C1=CC=C(C=C1)C(C(C)NC1CCCCC1)=O
reactant | potassium cyanate | 11.3 mmol, 914 mg | [O-]C#N.[K+]
reactant | hydrochloride | 2 ml | Cl | ClH
solvent | water | 30 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 4-(4'-n-Butylphenyl)-1-cyclohexyl-5-methyl-4-imidazolin-2-one | C(CCC)C1=CC=C(C=C1)C=1NC(N(C1C)C1CCCCC1)=O | C20H28N2O
